US08138197B2
Production of 1′-[(2-Cyclopropyl-1-phenyl-1H-benzimidazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
Methyl 2-cyclopropyl-1-phenyl-1H-benzimidazole-5-carboxylate (194 mg, 0.664 mmol) was dissolved in THF (6 mL) and MeOH (6 mL), and aqueous 5 N sodium hydroxide solution (0.66 mL, 3.30 mmol) was added to it and stirred at 60° C. for 2 hours. This was restored to room temperature, 5 N hydrochloric acid (0.66 mL, 3.30 mmol) was added thereto, the solvent was evaporated away under reduced pressure, and the residue was azeotroped with toluene. DMF (4 mL) and water (1 mL) were added to it, and 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (256 mg, 0.797 mmol), triethylamine (0.14 mL, 0.996 mmol), HOBT (135 mg, 0.996 mmol) and WSC hydrochloride (191 mg, 0.996 mmol) were added thereto. The reaction liquid was stirred at 90° C. for 2 hours, restored to room temperature, and water was added thereto. The precipitated solid was taken out through filtration, and dried under reduced pressure to obtain the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.42 (1H, d, J=2.2 Hz), 8.23 (1H, dd, J=8.8, 2.2 Hz), 7.69-7.59 (6H, m), 7.34 (1H, d, J=8.8 Hz), 7.23 (1H, dd, J=8.4, 1.6 Hz), 7.14 (1H, d, J=8.4 Hz), 4.50-3.29 (5H, m), 2.98 (2H, s), 2.06-1.77 (4H, m), 1.15-1.11 (2H, m), 1.04-1.00 (2H, m). MS [M+H]+=546.

reactant | Methyl 2-cyclopropyl-1-phenyl-1H-benzimidazole-5-carboxylate | 0.664 mmol, 194 mg | C1(CC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC(=C2)C(=O)OC | C18H16N2O2
reactant | sodium hydroxide | 3.30 mmol, 5 N, 0.66 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3.30 mmol, 5 N, 0.66 mL | Cl | ClH
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 0.797 mmol, 256 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | triethylamine | 0.996 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.996 mmol, 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 0.996 mmol, 191 mg | CCN=C=NCCCN(C)C.Cl
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 6 mL | CO | CH4O
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1′-[(2-Cyclopropyl-1-phenyl-1H-benzimidazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | C1(CC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC(=C2)C(=O)N2CCC1(CC2)OC2=CC=C(C=C2C(C1)=O)C1=NN=NN1 | C31H27N7O3
